US07504433B2
3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophene-2-carbaldehyde
To a solution of trimethylethylenediamine (0.296 mL, 2.28 mmole) in THF at −78° C., is injected 2.0M n-butyllithium in cyclohexane (1.14 mL, 2.28 mmole) dropwise. The mixture is stirred for 15 minutes, then added a solution of 5-(4-Trifluoromethyl-phenyl)-thiophene-2-carbaldehyde (0.530 g, 2.07 mmole) in THF (5 mL) and stirred for another 15 minutes. To the resulting mixture is injected 2.0M n-butyllithium in cyclohexane (1.55 ml, 3.10 mmole) at −78° C. and warmed up to −18° C. for an hour. The reaction is cooled down to −78° C. again, quenched with excess amount of iodomethane (0.644 mL, 10.35 mmole) and allowed to warm up to room temperature, then poured into well stirred ice-water (30 mL). The aqueous solution is then extracted with ethyl acetate (2×30 mL). The combined organic solution is washed with brine (3×30 mL), dried over Na2SO4 and concentrated. The crude product is purified on a silica gel column, gradient eluting with 0-20% ethyl acetate in hexane and concentrated to provide the titled compound as yellow crystalline.

reactant | trimethylethylenediamine | 2.28 mmole, 0.296 mL | CNCCN(C)C | C5H14N2
reactant | n-butyllithium | 2.0M | C(CCC)[Li]
reactant | cyclohexane | 2.28 mmole, 1.14 mL | C1CCCCC1 | C6H12
reactant | 5-(4-Trifluoromethyl-phenyl)-thiophene-2-carbaldehyde | 2.07 mmole, 0.530 g | FC(C1=CC=C(C=C1)C1=CC=C(S1)C=O)(F)F | C12H7F3OS
reactant | n-butyllithium | 2.0M | C(CCC)[Li]
reactant | cyclohexane | 3.10 mmole, 1.55 ml | C1CCCCC1 | C6H12
reactant | iodomethane | 10.35 mmole, 0.644 mL | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophene-2-carbaldehyde | CC1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=O | C13H9F3OS
